US09399640B2
Step 2. tert-Butyl [(5-bromo-4-phenoxy-1,3-benzoxazol-2-yl)methyl]carbamate
A mixture of tert-butyl {2-[(3-bromo-6-hydroxy-2-phenoxyphenyl)amino]-2-oxoethyl}carbamate (0.298 g, 0.681 mmol), triphenylphosphine (0.393 g, 1.50 mmol), and freshly activated 4 A molecular sieves (2.72 g, 4 g/mmol) at 0° C. was treated with tetrahydrofuran (10.2 mL) and stirred at 0° C. for 1 h, followed by dropwise addition of diisopropyl azodicarboxylate (0.295 mL, 1.50 mmol) at this temperature. The resultant reaction mixture was warmed to RT and stirred at RT for 16 h, after which time the reaction mixture was filtered through a pad of Celite and washed with ethyl acetate. The filtrate was concentrated in vacuo to yield a crude residue that was purified by flash column chromatography (100% hexanes to 40% EtOAc/hexanes) to give the desired product (207 mg, 72%) as a tan solid. LCMS calculated for C19H19BrN2O4Na (M+Na)+: m/z=441.0, 443.0. found: 441.0, 443.0.

reactant | tert-butyl {2-[(3-bromo-6-hydroxy-2-phenoxyphenyl)amino]-2-oxoethyl}carbamate | 0.681 mmol, 0.298 g | BrC=1C(=C(C(=CC1)O)NC(CNC(OC(C)(C)C)=O)=O)OC1=CC=CC=C1 | C19H21BrN2O5
reactant | triphenylphosphine | 1.50 mmol, 0.393 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 1.50 mmol, 0.295 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | tetrahydrofuran | 10.2 mL | O1CCCC1 | C4H8O
product | tert-Butyl [(5-bromo-4-phenoxy-1,3-benzoxazol-2-yl)methyl]carbamate | 207 mg, 72% | BrC=1C=CC2=C(N=C(O2)CNC(OC(C)(C)C)=O)C1OC1=CC=CC=C1 | C19H19BrN2O4
